US07553969B1
(1) Synthesis of 2-(4-benzyloxy-3-t-butylphenyl)-1-toluenesulfonyloxymethylethylcarbamic acid benzyl ester
To a solution of 2-(4-benzyloxy-3-t-butylphenyl)-1-hydroxymethylethylcarbamic acid benzyl ester (2.07 g, 4.63 mmol) in pyridine (46 ml), toluenesulfonyl chloride (6.79 g, 35.6 mmol) was added under cooling with ice. After stirring for 6.5 hours, the mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane:ethyl acetate=2:1), giving the titled compound (2.46 g, 88%).

reactant | 2-(4-benzyloxy-3-t-butylphenyl)-1-hydroxymethylethylcarbamic acid benzyl ester | 4.63 mmol, 2.07 g | C(C1=CC=CC=C1)OC(NC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)CO)=O | C28H33NO4
reactant | toluenesulfonyl chloride | 35.6 mmol, 6.79 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 46 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-benzyloxy-3-t-butylphenyl)-1-toluenesulfonyloxymethylethylcarbamic acid benzyl ester | 2.46 g, 88% | C(C1=CC=CC=C1)OC(NC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)COS(=O)(=O)C=1C(=CC=CC1)C)=O | C35H39NO6S
